US03993679
a. 3,5-Diaminoanisole
3,5-Dinitroanisole (20 gm.) is suspended in methanol (250 ml.) and 5% palladium on charcoal (2.0 gm.) added. Reduction is carried out in a Parr apparatus for one hour. The solution is filtered with suction and the catalyst washed with a few cc of methanol. Removal of the methanol gives a clear brown glass which crystallized on standing. Extraction with boiling benzene (250 ml.) and treatment with Darco gives white needles (8.7 gm., m.p. 79°-80°, 63% yield).

reactant | 3,5-Dinitroanisole | 20 gm | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])OC | C7H6N2O5
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium on charcoal | 2.0 gm | [Pd] | Pd
product | 3,5-Diaminoanisole | 63% yield | NC=1C=C(C=C(C1)N)OC | C7H10N2O
